US07320972B2
(3R,4S)-4-(3-Bromophenyl)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]azetidin-2-one (42 mg, 0.089 mmol) was coupled with 4-hydroxyphenyl boronic acid (18 mg, 0.13 mmol) under standard Suzuki conditions illustrated by Example 42. Purified by chromatography (silica gel, 10% to 90% ethyl acetate-hexane) to afford (3R,4S)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4′-hydroxybiphenyl-3-yl)azetidin-2-one (27 mg, 63% yield); Rf 0.31 (1:1 ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 7.54-7.37 (m, 6H), 7.32-7.22 (m, 4H), 7.04-6.87 (m, 6H), 5.24 (br s, 1H), 4.72 (t, J=6.0 Hz, 1H), 4.67 (d, J=2.4 Hz, 1H), 3.17 (ddd, J=5.3, 2.5, 2.4 Hz, 1H), 2.26 (br s, 1H), 2.09-1.88 (m, 4H) ppm.

reactant | (3R,4S)-4-(3-Bromophenyl)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]azetidin-2-one | 0.089 mmol, 42 mg | BrC=1C=C(C=CC1)[C@@H]1[C@H](C(N1C1=CC=C(C=C1)F)=O)CC[C@H](O)C1=CC=C(C=C1)F | C24H20BrF2NO2
reactant | 4-hydroxyphenyl boronic acid | 0.13 mmol, 18 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
product | (3R,4S)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4′-hydroxybiphenyl-3-yl)azetidin-2-one | 27 mg, 63% yield | FC1=CC=C(C=C1)N1C([C@@H]([C@H]1C=1C=C(C=CC1)C1=CC=C(C=C1)O)CC[C@H](O)C1=CC=C(C=C1)F)=O | C30H25F2NO3
